US06924278B2
A solution of 1-acetyl-3-(4-tert-butyldiphenylsilyloxymethyl-3-methylphenyl)methylene-2,5-piperazinedione (6.3 g) in methanol (300 ml) was hydrogenated over 10% palladium-carbon (50% wet) for 4 hours at atmospheric pressure. After removal of the catalyst by filtration, to the filtrate was added hydrazine monohydrate (721 mg). The mixture was stirred for 1 hour at room temperature and concentrated under reduced pressure. The residue was triturated with a mixture of isopropyl ether (200 ml) and n-hexane (400 ml) and the precipitates were collected by filtration, and washed with isopropyl ether to give a crude product. This was purified by flash column chromatography on silica gel using ethyl acetate and a mixture of dichloromethane and methanol (15:1) as eluent to give 3-(4-tert-butyldiphenylsilyloxymethyl-3-methylbenzyl)-2,5-piperazinedione (4.67 g) as a powder.

reactant | 1-acetyl-3-(4-tert-butyldiphenylsilyloxymethyl-3-methylphenyl)methylene-2,5-piperazinedione | 6.3 g | C(C)(=O)N1C(C(NC(C1)=O)=CC1=CC(=C(C=C1)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C)=O | C31H34N2O4Si
solvent | methanol | 300 ml | CO | CH4O
catalyst | palladium-carbon | [C].[Pd]
product | 3-(4-tert-butyldiphenylsilyloxymethyl-3-methylbenzyl)-2,5-piperazinedione | 4.67 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C=C(CC2C(NCC(N2)=O)=O)C=C1)C | C29H34N2O3Si
